US08497281B2
cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-6-carboxylic acid methyl ester
A flask charged with a stir bar, trifluoromethanesulfonic acid cis-1-(1-trifluoromethane-sulfonyl-1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester (mixture of isomers regarding sulfonyl group attachment to N-1 or N-3 of the benzimidazole, 0.50 g), triethylamine (0.18 mL), N,N-dimethylformamide (2 mL), and methanol (1 ml) is sparged with argon for 5 min. [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium dichloromethane complex (53 mg) is added and the mixture is sparged with carbon monoxide for another 5 min. The mixture is then heated to 70° C. under carbon monoxide atmosphere (4 bar) and shaken at this temperature overnight. After cooling to room temperature, the mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0->9:1) to afford the title compound. Yield: 0.27 g (87% of theory); LC (method 1): tR=2.43 min; Mass spectrum (ESI+): m/z=376 [M+H]+.

reactant | trifluoromethanesulfonic acid cis-1-(1-trifluoromethane-sulfonyl-1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester | FC(S(=O)(=O)N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)OS(=O)(=O)C(F)(F)F)(F)F | C22H17F6N3O6S2
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | triethylamine | 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | methanol | 1 ml | CO | CH4O
product | cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-6-carboxylic acid methyl ester | COC(=O)C=1C=CC=2C[C@@H]3N(CCC[C@@H]3C2C1)C(=O)C1=CC2=C(NC=N2)C=C1 | C22H21N3O3
